US04886809
3 Grams of 6-carboxy-3,4-dihydrocarbostyril and 3.5 g of 4-methylamino-1-benzylpiperidine were dispersed in 40 ml of dimethylformamide, to this dispersion was added dropwise, under ice-cooled condition, 2.61 ml of diethyl cyanophosphate and 2.39 ml of triethylamine in 10 ml of dimethylformamide solution. The reaction mixture was stirred under ice-cooled condition for 1 hour, further stirred at room temperature for 2 hours, then the reaction mixture was poured into ice-water. Said mixture was extracted with chloroform, then extract was dried with anhydrous sodium carbonate, then the solvent was removed by evaporation. The residue thus obtained was purified by means of a silica gel column chromatography, and recrystallized from acetonitrile to yield 3 g of [N-methyl-N-(1-benzyl-4-piperidyl)amino]carbonyl]-3,4-dihydrocarbostyril.1/2-hydrate. White powdery substance. Melting point: 186°-188° C. (decomp.).

reactant | 6-carboxy-3,4-dihydrocarbostyril | C(=O)(O)C=1C=C2CCC(NC2=CC1)=O | C10H9NO3
reactant | 4-methylamino-1-benzylpiperidine | 3.5 g | CNC1CCN(CC1)CC1=CC=CC=C1 | C13H20N2
reactant | diethyl cyanophosphate | 2.61 ml | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | triethylamine | 2.39 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,4-dihydrocarbostyril | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
